US03937719
2-(2-Hydroxyethoxy)-6-nitrobenzonitrile is prepared by the dropwise addition of a tetrahydrofuran solution of lithium hydroxyethoxide to a tetrahydrofuran (500 ml.) solution of 2,6-dinitrobenzonitrile (19.3 g.) at reflux. After all the ethoxide is added, the reaction is refluxed for 4 hours, cooled and evaporated to dryness. The solid product is extracted with hot benzene, m.p. 140°-142°C.

reactant | lithium hydroxyethoxide | OC([O-])C.[Li+]
reactant | 2,6-dinitrobenzonitrile | 19.3 g | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | ethoxide | [O-]CC
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-(2-Hydroxyethoxy)-6-nitrobenzonitrile | OCCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C9H8N2O4
